US07241791B2
4-[1-(2-chlorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol
A mixture of 2,2′,4,4′-tetrahydroxybenzophenone (0.246 g, 1.0 mmol), ammonium chloride (0.16 g, 3 mmol) and 2-chlorophenyl hydrazine hydrochloride (0.535 g, 3 mmol) in 10 mL H2O was heated at reflux for 4 hours. The reaction mixture was cooled and the solids formed were filtered washed with H2O and dried to give 0.296 mg of the intermediate hydrazone. The hydrazone was heated to 200° C. under argon for 2 hours. The residue was purified by flash chromatography (hexane-EtOAc, 2:1) to give 0.055 g of product as a tan solid

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 1.0 mmol, 0.246 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | ammonium chloride | 3 mmol, 0.16 g | [Cl-].[NH4+]
reactant | 2-chlorophenyl hydrazine hydrochloride | 3 mmol, 0.535 g | Cl.ClC1=C(C=CC=C1)NN
solvent | H2O | 10 mL | O | H2O
product | 4-[1-(2-chlorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol | 0.296 mg | ClC1=C(C=CC=C1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C19H13ClN2O3
